US06511974B1
[2-Chloro-4-(3-trifluoromethyl-pyrazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone
In the manner of Example 9's Method 1, employing (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (0.8 g), 60% sodium hydride in oil (0.25 g, degreased with hexane), 3-trifluoromethylpyrazole (0.61 g) and dimethylformamide (25 ml), the title compound was obtained as an amorphous solid, MS, m/z: 457.2 (M+H)+.

reactant | (2-chloro-4-fluorophenyl)-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.8 g | ClC1=C(C=CC(=C1)F)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C19H14ClFN2O
reactant | sodium hydride | [H-].[Na+]
reactant | hexane | CCCCCC | C6H14
reactant | 3-trifluoromethylpyrazole | 0.61 g | FC(C1=NNC=C1)(F)F | C4H3F3N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | [2-Chloro-4-(3-trifluoromethyl-pyrazol-1-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | ClC1=C(C=CC(=C1)N1N=C(C=C1)C(F)(F)F)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C23H16ClF3N4O
